US05023351
Example of proudction of 15-hydroxy-pentadecanoic acid:
1.00 g (3.68 millimole) of 15-hydroxy-12-ketopentadecanoic acid, 0.73 g (11.0 millimole) of 85 wt.% potassium hydroxide, 0.50 g (8.5 millimole) of 85 % hydrated hydrazine and 5 ml of diethylene glycol were charged into a frask and heated under reflux over 1.5 hours. Subsequently, while evaporating the produced light boiling components such as water to the outside of the system, the internal temperature was elevated to 195 to 205° C., and the heating under reflux was continued at the same temperature range over 2 hours. After completion of the reaction, the solution was cooled, diluted by addition of 5 ml of water and added with 3 ml of 6N-HCl, followed by collection of the precipitated pail brown solid by filtration. The solid was recrystallized from benzene to obtain 0.81 g (3.14 millimole, Yield: 85 %) of a white crystl.

reactant | 15-hydroxy-12-ketopentadecanoic acid | 3.68 millimole, 1.00 g | OCCCC(CCCCCCCCCCC(=O)O)=O | C15H28O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | diethylene glycol | 5 ml | C(COCCO)O | C4H10O3
reactant | HCl | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 15-hydroxy-pentadecanoic acid | Yield: 85 % | OCCCCCCCCCCCCCCC(=O)O | C15H30O3
